US08431603B2
(17d) {4-[(Cyclobutyloxy)methyl]-2,6-dimethoxyphenyl}boronic acid
To a mixture of 2-bromo-5-[(cyclobutyloxy)methyl]-1,3-dimethoxybenzene (2.39 g, 7.94 mmol) and THF (20 mL) was added n-butyllithium (2.73 M solution in n-hexane: 3.49 mL, 9.53 mmol) at −78° C. (internal temperature), and the mixture was stirred for 1 hour. After then adding trimethyl borate (1.07 mL, 9.53 mmol) to the mixture, the temperature was slowly raised to room temperature while stirring. A saturated aqueous solution of ammonium chloride was added to the reaction mixture while cooling on ice, and then ethyl acetate was added. After thoroughly shaking the mixture, the organic layer was separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered, and then the solvent in the filtrate was distilled off under reduced pressure. Heptane (30 mL) was added to the residue, the precipitated solid was collected by filtration and dried under reduced pressure to obtain the title compound (905 mg, 3.40 mmol).

reactant | 2-bromo-5-[(cyclobutyloxy)methyl]-1,3-dimethoxybenzene | 7.94 mmol, 2.39 g | BrC1=C(C=C(C=C1OC)COC1CCC1)OC | C13H17BrO3
reactant | n-butyllithium | 9.53 mmol, 2.73 M, 3.49 mL | C(CCC)[Li]
reactant | trimethyl borate | 9.53 mmol, 1.07 mL | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | {4-[(Cyclobutyloxy)methyl]-2,6-dimethoxyphenyl}boronic acid | 3.40 mmol, 905 mg | C1(CCC1)OCC1=CC(=C(C(=C1)OC)B(O)O)OC | C13H19BO5
